US09193707B2
3. 2-(4-fluorophenyl)quinazoline-4-carboxylic acid (Step 4)
Into a 500-mL 3-necked round-bottom flask, was placed ethyl 2-(4-fluorophenyl)quinazoline-4-carboxylate (15 g, 50.63 mmol, 1.00 equiv), oxolane (150 mL), lithiumol (2.4 g, 100.22 mmol, 2.00 equiv) and water (50 mL). The resulting solution was stirred overnight at 26° C. The resulting mixture was concentrated under vacuum. The pH value of the solution was adjusted to 5 with hydrogen chloride (2 mol/L). The solids were collected by filtration and washed with water. This resulted in 10 g (74%) of 2-(4-fluorophenyl)quinazoline-4-carboxylic acid as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 7.37-7.41 (m, 2H), 7.65-7.69 (m, 1H), 7.96-8.03 (m, 2H), 8.20-8.22 (m, 1H), 8.56-8.61 (m, 2H); MS (ESI) m/z 269 ([M+H]+).

reactant | ethyl 2-(4-fluorophenyl)quinazoline-4-carboxylate | 50.63 mmol, 15 g, 1.00 equiv | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C17H13FN2O2
reactant | oxolane | 150 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 2-(4-fluorophenyl)quinazoline-4-carboxylic acid | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)O | C15H9FN2O2
